US03992408
In the manner given in Example 28, 8-chloro-1-(phthalimidomethyl)-6-(2,6-difluorophenyl)-4H-imidazo-[1,2-a][1,4]benzodiazepine is reacted at room temperature with hydrazine hydrate, dissolved in ethanol, to give 8-chloro-1-(aminomethyl)-6-(2,6-difluorophenyl-4H-imidazo-[1,2-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(phthalimidomethyl)-6-(2,6-difluorophenyl)-4H-imidazo-[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)CN3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2F)F)C1 | C26H15ClF2N4O2
reactant | hydrazine hydrate | O.NN
reactant | ethanol | C(C)O | C2H6O
product | 2,6-difluorophenyl-4H-imidazo-[1,2-a][1,4]benzodiazepine | FC1=C(C(=CC=C1)F)C1=CN=C2N1C1=C(C=NC2)C=CC=C1 | C17H11F2N3
